US05807862
Sodium hydride (95%, 84 mg, 3.5 mmol) was added to a solution of theobromine (0.595 g, 3.2 mmol) in dimethylsulfoxide (15 ml). After 20 minutes of stirring, 1-bromo-9-octadecene (0.995 g, 3 mmol), prepared above, was added. After 6 hours of stirring at room temperature, the reaction mixture was warmed to 60° C. over 3 hours and then poured into a separatory funnel containing 50 ml of water. The reaction mixture was extracted with five 40 ml aliquots of dichloromethane. The organic extracts were combined, washed with water (50 ml) and brine (50 ml) and dried over anhydrous magnesium sulfate. Removing the solvent under reduced pressure resulted in a crude product further purified by flash chromatography over silica gel using a 30% acetone/petroleum ether eluant, yielding 0.44 g of 1-(9-octadecenyl)-3,7-dimethylxanthine (34 % yield).

reactant | Sodium hydride | 3.5 mmol, 84 mg | [H-].[Na+]
reactant | theobromine | 3.2 mmol, 0.595 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | 1-bromo-9-octadecene | 3 mmol, 0.995 g | BrCCCCCCCCC=CCCCCCCCC | C18H35Br
reactant | water | 50 ml | O | H2O
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 1-(9-octadecenyl)-3,7-dimethylxanthine | 0.44 g, 34 % yield | C(CCCCCCCC=CCCCCCCCC)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C25H42N4O2
